US05169944
Monoolein/Taurocholic acid Solution (Micelle Solution)
1.35 g of taurocholic acid was dissolved in 15 ml of de-ionized water and the volume of the solution was increased to 60 ml by adding more deionized water. Then, 0.89 mg of monoolein was slowly added to the solution over 20 mins. using an ice bath on a sonic mixer. The final monoolein and taurocholic acid concentration was 20 mM (the molecular weight of taurocholic acid is 537.7 g and that of monoolein is 356.5 g). The mixture was stored at 10° C.

reactant | taurocholic acid | 1.35 g | C[C@H](CCC(=O)NCCS(=O)(=O)[O-])[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C.[Na+]
reactant | monoolein | 0.89 mg | CCCCCCCC/C=C\CCCCCCCC(=O)OCC(CO)O | C21H40O4
solvent | water | 15 ml | O | H2O
product | Monoolein Taurocholic acid | CCCCCCCC/C=C\CCCCCCCC(=O)OCC(CO)O.C[C@H](CCC(=O)NCCS(=O)(=O)[O-])[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C.[Na+] | InChI=1S/C26H45NO7S.C21H40O4.Na/c1-15(4-7-23(31)27-10-11-35(32,33)34)18-5-6-19-24-20(14-22(30)26(18,19)3)25(2)9-8-17(28)12-16(25)13-21(24)29;1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-21(24)25-19-20(23)18-22;/h15-22,24,28-30H,4-14H2,1-3H3,(H,27,31)(H,32,33,34);9-10,20,22-23H,2-8,11-19H2,1H3;/q;;+1/p-1/b;10-9-;/t15-,16+,17-,18-,19+,20+,21-,22+,24+,25+,26-;;/m1../s1
